US07396847B2
(5RS)-3-(4-Bromophenyl)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazole
(5RS)-[3-(4-Bromophenyl)-4,5-dihydroisoxazol-5-yl]methanol (6.0 g, 0.023 M, see Pharmacia & Upjohn WO 98-07708), triethyl amine (3.9 mL, 0.028 M), and 4-(dimethylamino)pyridine (0.56 g, 4.58 mM), were combined in dichloromethane (36 mL). A solution of tert-butyldimethylsilyl chloride (1 M in dichloromethane, 26 mL, 0.028 M) was added and the resulting mixture was stirred at room temperature for 16 h. The resulting mixture was poured into water and extracted with dichloromethane. The combined organics were dried (magnesium sulfate), filtered and evaporated. The crude material was purified by chromatography on silica gel using 50% ethyl acetate/hexanes to give 8.4 g of the desired product.

reactant | (5RS)-[3-(4-Bromophenyl)-4,5-dihydroisoxazol-5-yl]methanol | 0.023 M, 6.0 g | BrC1=CC=C(C=C1)C1=NOC(C1)CO | C10H10BrNO2
reactant | triethyl amine | 0.028 M, 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 1 M, 26 mL | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
catalyst | 4-(dimethylamino)pyridine | 4.58 mM, 0.56 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 36 mL | ClCCl | CH2Cl2
product | (5RS)-3-(4-Bromophenyl)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazole | 8.4 g | BrC1=CC=C(C=C1)C1=NOC(C1)CO[Si](C)(C)C(C)(C)C | C16H24BrNO2Si
